US07452892B2
G. Preparation of 5-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a solution of a mixture of 2-chloro-4,5-bis(4-chlorophenyl)-6-hydrazinylpyrimidine and its regioisomer prepared above (900 mg, 2.46 mmol) in THF (10 mL) at room temperature under argon was added triphosgene (1.46 g, 4.91 mmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was cooled in an ice bath and carefully quenched with water (10 mL) and then extracted with EtOAc (15 mL×2). The combined organic extracts were washed with water and then saturated aqueous NaCl. The organic layer was dried (MgSO4), filtered, and concentrated under reduced pressure. The crude product was purified by silica gel column chromatography eluted with 20% ethyl acetate-hexanes to obtain 400 mg of the title compound as a yellow solid. HPLC/MS: retention time=3.923 min, [M+H]+=391; 1H NMR (DMSO-d6, 500 MHz): δ 12.68 (s, 1H), 7.39 (d, J=8.25 Hz, 2H), 7.31 (d, J=8.25 Hz, 2H), 7.23 (d, J=8.8 Hz, 2H), 7.21 (d, J=8.8 Hz, 2H). Regioisomeric product derived from starting material regioisomeric impurity: HPLC/MS: retention time=3.545 min.

reactant | 2-chloro-4,5-bis(4-chlorophenyl)-6-hydrazinylpyrimidine | ClC1=NC(=C(C(=N1)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)NN | C16H11Cl3N4
reactant | triphosgene | 4.91 mmol, 1.46 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 400 mg | ClC1=NC(=C(C=2N1C(NN2)=O)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl | C17H9Cl3N4O
